US09034880B2
A mixture of Methyl 4-(1-(2-(6-methylpyridin-3-yl)ethyl)hydrazinyl)benzoate hydrochloride (0.15 gm, 0.447 mol), piperidone (0.13 gm, 1.34 mol) and 7% sulfuric acid in dioxane (5 mL) was heated at 100 deg C. for 2 h. Reaction mass was cooled and concentrated under reduced pressure to give crude 2,3,4,5-tetrahydro-5-(2-(6-methylpyridin-3-yl)ethyl)-1H-pyrido[4,3-b]indole-8-carboxylic acid (LCMS; 44% of desired peak) as a brown colored oil which is submitted for purification by preparative HPLC.

reactant | Methyl 4-(1-(2-(6-methylpyridin-3-yl)ethyl)hydrazinyl)benzoate hydrochloride | 0.447 mol, 0.15 gm | Cl.CC1=CC=C(C=N1)CCN(N)C1=CC=C(C(=O)OC)C=C1
reactant | piperidone | 1.34 mol, 0.13 gm | N1C(CCCC1)=O | C5H9NO
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
product | 2,3,4,5-tetrahydro-5-(2-(6-methylpyridin-3-yl)ethyl)-1H-pyrido[4,3-b]indole-8-carboxylic acid | CC1=CC=C(C=N1)CCN1C2=C(C=3C=C(C=CC13)C(=O)O)CNCC2 | C20H21N3O2
